US06610723B2
6-(3,4-Dichloro-phenyl)-pyridine 2-carboxylic Acid Methyl Ester
The title compound, MS: m/e=282.0 (M+) was obtained as a light yellow solid (7% yield) by the reaction of 6-bromo-pyridine-2-carboxylic acid methyl ester with 3,4-dichlorophenyl boronic acid.

reactant | 6-bromo-pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=CC=C1)Br | C7H6BrNO2
reactant | 3,4-dichlorophenyl boronic acid | ClC=1C=C(C=CC1Cl)B(O)O | C6H5BCl2O2
product | 6-(3,4-Dichloro-phenyl)-pyridine 2-carboxylic Acid Methyl Ester | COC(=O)C1=NC(=CC=C1)C1=CC(=C(C=C1)Cl)Cl | C13H9Cl2NO2
